US04232016
First, 1.2 of KF and then 2.9 g. of 3-hydroxy-5-phenyl-7-chloro-2,3-dihydro-1H-1,4-benzodiazepin-2-one are added to a mixture of 35 g. of HF and 15 ml. of pyridine and the mixture is stirred for 1 hour more. Working up in the customary manner using sodium carbonate solution/ethyl acetate gives 3-fluoro-5-phenyl-7-chloro-2,3-dihydro-1H-1,4-benzodiazepin-2-one, m.p. 235° (decomposition).

reactant | KF | [F-].[K+]
reactant | 3-hydroxy-5-phenyl-7-chloro-2,3-dihydro-1H-1,4-benzodiazepin-2-one | OC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=C(C=C2)Cl)=O | C15H11ClN2O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-fluoro-5-phenyl-7-chloro-2,3-dihydro-1H-1,4-benzodiazepin-2-one | FC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=C(C=C2)Cl)=O | C15H10ClFN2O
